US05051508
A solution of 3-(3-chloropropyl)-4-chloro-8-methoxyquinoline (6.4 g, 23.6 mmol) and 2-methylaniline (5.0 ml, 47.2 mmol) in ethanol (250 ml) was heated at reflux for 4 days, then cooled and evaporated. Dichloromethane and aqueous sodium bicarbonate solution were added, and the organic layer washed with water, dried and evaporated. Chromatography (silica gel, 1% methanolic ammonia in dichloromethane) followed by crystallisation from ethyl acetate gave 1-(2-methylphenyl)-7-methoxy-1,2,3,4-tetrahydropyridino-[3,2-c]quinoline (1.92 g, 27%), m.p. 160°-161°.

reactant | 3-(3-chloropropyl)-4-chloro-8-methoxyquinoline | 23.6 mmol, 6.4 g | ClCCCC=1C=NC2=C(C=CC=C2C1Cl)OC | C13H13Cl2NO
reactant | 2-methylaniline | 47.2 mmol, 5.0 ml | CC1=C(N)C=CC=C1 | C7H9N
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 1-(2-methylphenyl)-7-methoxy-1,2,3,4-tetrahydropyridino-[3,2-c]quinoline | 1.92 g, 27% | CC1=C(C=CC=C1)N1CCCC=2C=NC=3C(=CC=CC3C21)OC | C20H20N2O
